US07834051B2
rac-2-chloro-4-[(4R,5R)-3,3-diethyl-4-hydroxy-5-methyl-2-oxopyrrolidin-1-yl]benzonitrile
Using 2-chloro-4-(3,3-diethyl-5-methyl-2,4-dioxopyrrolidin-1-yl)benzonitrile (67 mg) and lithium tri(sec-butyl)borohydride-THF solution (0.33 mL, 1 mol/L), and in the same manner as in Example 5, the title compound was obtained as colorless crystals (yield: 34.5 mg, 51%).

reactant | 2-chloro-4-(3,3-diethyl-5-methyl-2,4-dioxopyrrolidin-1-yl)benzonitrile | 67 mg | ClC1=C(C#N)C=CC(=C1)N1C(C(C(C1C)=O)(CC)CC)=O | C16H17ClN2O2
reactant | lithium tri(sec-butyl)borohydride THF | 1 mol/L, 0.33 mL | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+].C1CCOC1
product | rac-2-chloro-4-[(4R,5R)-3,3-diethyl-4-hydroxy-5-methyl-2-oxopyrrolidin-1-yl]benzonitrile | ClC1=C(C#N)C=CC(=C1)N1C(C([C@H]([C@H]1C)O)(CC)CC)=O | C16H19ClN2O2
